US07601716B2
(4-Methylpiperazin-1-yl)-{4-[1-(2,4,5-trifluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-methanone
7-Iodo-1-(2,4,5-trifluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (40 mg) was reacted with (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a pale yellow foam (30% yield). M.p. (foam), LCMS: m/z=482.10 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.33 (s, 3H), 2.35-2.52 (m, 4H), 3.39-3.42 (m, 2H), 3.42-3.56 (m, 2H), 3.58-3.66 (m, 2H), 3.68-3.88 (m, 2H), 4.45 (s, 2H), 4.98 (s, 1H), 6.72 (s, 1H), 6.89-7.02 (m, 1H), 7.08-7.15 (m, 1H), 7.35-7.44 (m, 4H), 7.70 (s, 1H).

reactant | 7-Iodo-1-(2,4,5-trifluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 40 mg | IC1=CC2=C(NCCN2CC2=C(C=C(C(=C2)F)F)F)N=C1 | C14H11F3IN3
reactant | (4-methylpiperazin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H27BN2O3
product | (4-Methylpiperazin-1-yl)-{4-[1-(2,4,5-trifluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]phenyl}-methanone | 30% yield | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=CC2=C(NCCN2CC2=C(C=C(C(=C2)F)F)F)N=C1 | C26H26F3N5O
